US06825351B2
Reaction of N-(isoquinol-5-yl)acetamide (171 mg, 0.918 mmol) using the general procedure for small scale hydrogenations (workup with NaOH in place of saturated NaHCO3) provided N-(5,6,7,8-tetrahydroisoquinolin-5-yl)acetamide (79 mg, 45%): 1H NMR δ 1.60-1.70 (m, 1H), 1.70-1.09 (m, 2H), 1.98 (s, 3H), 1.98-2.08 (m, 1H), 2.65-2.68 (m, 2H), 5.03-5.11(m, 1H), 6.63 (br d, 1H), 7.08 (d, 1H, J=5 Hz), 8.17 (s, 1H), 8.20 (d, 1H, J=5 Hz); 13C NMR δ 20.7, 23.7, 26.4, 30.1, 47.1, 122.9, 133.3, 146.3, 147.5, 150.7, 170.1; MS m/z: 191 (M+H+). N-(1,2,3,4-tetrahydroisoquinolin-5-yl)acetamide also was isolated (35 mg, 20%).

reactant | N-(isoquinol-5-yl)acetamide | 0.918 mmol, 171 mg | C1=NC=CC2=C(C=CC=C12)NC(C)=O | C11H10N2O
reactant | NaOH | [OH-].[Na+]
product | N-(5,6,7,8-tetrahydroisoquinolin-5-yl)acetamide | 79 mg, 45% | C1=NC=CC=2C(CCCC12)NC(C)=O | C11H14N2O
